US04051248
B. 8-[(3,4-Dihydro-2-naphthalenyl)methyl]-1,3,8-triazaspiro-[4.5]dec-2-en-4-one
A mixture of 1-[(3,4-dihydro-2-naphthalenyl)methyl]-4-anilino isonipecotamide (6.0 g), triethyl orthoformate (3.0 g), toluene (30 ml), and glacial acetic acid (1.5 ml) is refluxed under nitrogen for 38 hours. The reaction mixture is cooled and poured into aqueous ammonium hydroxide. The organic layer is separated, dried, and concentrated to give the crude product. Digestion of this material with benzene followed by filtration and concentration of the organic solution yields the title compound.

reactant | 1-[(3,4-dihydro-2-naphthalenyl)methyl]-4-anilino isonipecotamide | 6.0 g | C1=C(CCC2=CC=CC=C12)CN1CCC(C(=O)N)(CC1)NC1=CC=CC=C1 | C23H27N3O
reactant | triethyl orthoformate | 3.0 g | C(OCC)(OCC)OCC | C7H16O3
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | 8-[(3,4-Dihydro-2-naphthalenyl)methyl]-1,3,8-triazaspiro-[4.5]dec-2-en-4-one | C1=C(CCC2=CC=CC=C12)CN1CCC2(C(N=CN2)=O)CC1 | C18H21N3O
